US06436929B1
6-(3-Chlorophenyl)-4-methyl-4-phenyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one was prepared, from 1-(4-amino-3′-chloro-biphenyl-3-yl)-ethanone (0.2 g, 0.82 mmol) and phenylmagnesium bromide followed by treatment with CDI in THF, as a white solid: mp 179-180° C.; 1H-NMR (CDCl3) δ8.27 (s, 1H, D2O exchangeable), 7.51-7.57 (m, 2H), 7.28-7.45 (m, 9H), 6.92 (d, 1H, J=8.4 Hz), 2.12 (s, 3H); MS (ESI) m/z 348 ([M−H]−, 100%); Anal. Calc. For C21H16ClNO2: C, 72.10; H, 4.61; N, 4.00. Found: C, 71.72; H, 4.86; N, 3.91.

reactant | 1-(4-amino-3′-chloro-biphenyl-3-yl)-ethanone | 0.82 mmol, 0.2 g | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(C)=O | C14H12ClNO
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | THF | C1CCOC1 | C4H8O
product | 6-(3-Chlorophenyl)-4-methyl-4-phenyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C2=CC=CC=C2)C)=O)C=C1 | C21H16ClNO2
